US04889859
To 8.1 g (51.3 mmol) of potassium permangante in 150 mL of water are added 5.0 g (21.1 mmol) of 2-fluoro-5-iodotoluene. The reaction mixture is heated at reflux for 4 hours. After being cooled to room temperature, the reaction mixture is poured into 250 mL of methylene chloride of sodium bisulfate, and 1N hydrochloric acid. The organic layer is separated, washed with water and dried over sodium sulfate. The solvent is removed in vacuo and the solid triturated with hexane to give 0.86 g (15%) of 2-fluoro-5-iodobenzoic acid as a white solid, m.p. 161°-163° C.

reactant | potassium | 51.3 mmol, 8.1 g | [K] | K
reactant | 2-fluoro-5-iodotoluene | 21.1 mmol, 5.0 g | FC1=C(C=C(C=C1)I)C | C7H6FI
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | water | 150 mL | O | H2O
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 2-fluoro-5-iodobenzoic acid | 0.86 g, 15% | FC1=C(C(=O)O)C=C(C=C1)I | C7H4FIO2
